* Top level spice file 

.option post=1
*.chkanode type=gate dv=0.5*pvdd report=active
.option parhier = local 
.option measform = 1
.option lis_new
.option post probe
.param pi = 3.141592653

*************************************** User defined functions ****************
.param V_meas(node, ref) = 'v(node) - v(ref)'

*** current profile 
.param pwl_file_quiet = str('./hspice_inc/curr_quiet_30us.txt.csv')
* .param pwl_file_SOC = str('./hspice_inc/curr_profile_SOC_max29A_flr5A_dt200ns_11us.txt.csv')
* .param pwl_file_SOC = str('./hspice_inc/curr_profile_SOC_max40A_flr5A_dt200ns_11us.txt.csv')
* .param pwl_file_SOC = str('./hspice_inc/curr_profile_SOC_max40A_flr5A_dt400ns_11us.txt.csv')
* .param pwl_file_SOC = str('./hspice_inc/curr_profile_SOC_max40A_flr5A_dt200ns_rampDwn500ns_NoRand_11us.txt.csv')
* .param pwl_file_SOC = str('./hspice_inc/curr_profile_SOC_max30A_flr5A_dt200ns_rampDwn500ns_NoRand_11us.txt.csv')
.param pwl_file_SOC = str('./hspice_inc/curr_profile_SOC_240912_Andes_dIdt_18A_100ns_8us.txt.csv')		*** 240912, Andes sign off profile 

.param pwl_file_SOC_PAR_0_0 = str('./hspice_inc/curr_profile_SOC_par_0_0_max9A_flr1A_dt200ns_Rand1A_11us.txt.csv')
.param pwl_file_SOC_PAR_3_0 = str('./hspice_inc/curr_profile_SOC_par_3_0_max9p5A_flr1p5A_dt200ns_Rand1A_11us.txt.csv')
.param pwl_file_SOC_PAR_1Of11 = str('./hspice_inc/curr_profile_SOC_par_misc_1Of11_max1p2A_flr0p22A_dt200ns_Rand0p1_11us.txt.csv')

.param pwl_file_SOC_PAR_miscX11 = str('./hspice_inc/curr_profile_SOC_par_misc_max13A_flr2p5A_dt200ns_Rand1A_11us.txt.csv')

*** filter for measurement
.subckt meas_filter	
+ pin_in  ref_gnd 	hf  lf 

E_meas pin_meas ref_gnd  pin_in ref_gnd	1.0

C_hf pin_meas	hf  	160.p		
R_hf hf         ref_gnd 1k

R_lf pin_meas	lf		1k
C_lf lf 		ref_gnd	160.p
.ends meas_filter

*** define die model *****
.subckt model_die_lumped_nne_tile
	+ pin_bump ref_gnd C_die=100n R_die_1=1.25m R_die_2=RESMIN R_leak=0.84	pwl_file_in = str(pwl_file_quiet) delay = 0.

	R_die_1_ 	pin_bump	2	R_die_1
	R_die_2_	2		3	R_die_2
	C_die_		3		ref_gnd	C_die 
	R_leak_		pin_bump	ref_gnd	R_leak	
	IcurrSrc	pin_bump	ref_gnd	PWL pwlfile = str(pwl_file_in) td = delay    *** add 'R' if repeat
.ends


.inc ./hspice_inc/cpm_soc_modelOnly_240417.spice
.inc ./hspice_inc/cpm_SOC_240612_modelOnly.spice

*** define pkg model *****
* .inc ./hspice_inc/nne0415_SOC_cut_IdEM.cir
* .inc ./hspice_inc/Mam_MCM_L12_20240528ate_a_capmod20_SOC_ploc_psi_Andes_IdEM.cir
* .inc ./hspice_inc/Mam_MCM_L12_BH9_Ballv0p88i_BPIv00841_20240726_CorePI_SOC_IdEM.cir		*** 240823 based on Andes sign off pkg model 
.inc ./hspice_inc/Mam_MCM_L12_BH9_Ballv1p00_BPIv0090_20240930_35_senser40_SOC_jgwei_IdEM.cir	*** 241004 jgwei extracted model based on Andes SIW, jgwei pingrp, "C:\SIM_folder\SIwave_data_Andes_signOff\bump_130um\SOC"

*** define PCB model 
* .inc ./hspice_inc/acm3_pcb_soc_240419_IdEM.cir
* .inc ./hspice_inc/ACM3_05162024_SOC_PDN_4x100uF_IdEM.cir
* .inc ./hspice_inc/ACM3_SOC_PDN_240612_BGAx13_4x100uF_IdEM.cir
* .inc ./hspice_inc/ACM3_SOC_PDN_240613_BGAx13_100uFx4_22uFx9_IdEM.cir
* .inc ./hspice_inc/ACM3_SOC_PDN_240613_BGAx13_100uFx4_22uFx9_1xBGA_IdEM.cir
* .inc ./hspice_inc/ACM3_SOC_PDN_240613_BGAx13_220uFx4_22uFx9_47nFx6_10uF_IdEM.cir		*** 240829 based on Andes PCB caps
.inc /data/home/jiangongwei/work/PDN_core/hspice_inc/ACM3_PT01349994_B0_SOC_251208_s15p.cir		*** 251208 ACM3 B0 


*** cap models 
.inc ../cap_models.hsp

*************************************** Input params **************************
.param Vdd 	= 0.75
.param induct_eqvlnt_r = 0.28m	*** DCR of inductor of ALL phases

.param is_use_ecap_ebed = 0		*** value: 0 or 1, note: this could be baked in pkg model 
.param is_MIM 			= 0

* .param die_model_sig = 0		*** value: 0 if multi grp model, 1 if single die grp model 

	*** not used when CPM is enabled 
	.para Cdie_coeff = 1.0				*** ONLY multi grp controlling, use 1.0 if no Cdie scaling, use 3.62 for NNE if MIM cap is added,  
	.para Rdie_coeff = 1.0				*** Rdie is constant 1. , rather than scaled by '1./Cdie_coeff'

	*** Cdie Rdie based on MAM-242, tau = 24.26 (excluding MIM)
	.param Cdie_PA 	= '130.3n * Cdie_coeff'		
	.param Cdie_MA 	= '101.7n * Cdie_coeff'
	.param Rdie_PA 	= '0.186m * Rdie_coeff'
	.param Rdie_MA 	= '0.239m * Rdie_coeff'
	.param Rleak 	= 0.84
		
		* .param r_grid = 52e6.m			*** only applied when multi grp model, i.e. die_model_sig = 0 

.param is_ac_run = 0		*** 1 if impedance, 0 if transient 

.param tStep	= 10.p
.param tStop	= 15.u     ** 35.u

.param td_delay = 0.n
	
*************************************** End of User Input params **************

*************************************** PMIC **********************************
*** ref_gnd def.
Vref_gnd 	ref_gnd		0	0.										*** normal gnd 

.subckt PMIC_model
+ pin_out ref_gnd fdbk_node vdd_pmic = 0.75
	*** opt 1/3 ideal voltage src 
		VshortPMIC	pin_out	ref_gnd	vdd_pmic
	
	*** opt 2/3, add feedback
		* VshortPMIC_ref	pin_out_tmp	0 	vdd_pmic	*** ref contant voltage src 
		
		* VshortPMIC	pin_out	pin_tmp	vdd_pmic
		* E_fdbk	    pin_tmp	ref_gnd VCVS DELAY pin_out_tmp fdbk_node  td=1500.n			*** VCVS to model feedback using low freq signal 
			
	*** opt 3/3 voltage src waveform 
		* Vpmic_wf pin_out ref_gnd PWL pwlfile =  './hspice_inc/volt_profile_adi_240327_25us.txt.csv'
	*** 
.ends 


*** opt 1 ideal PMIC w/o remote sense feedback
.if ( 1 )
	xblk_PMIC pmic_pwr_raw ref_gnd pmic_pwr_raw PMIC_model  vdd_pmic = 'Vdd'  		
.endif 
*** opt 2 EMpower simplified IVR equivalent model 	(remember to disable PMIC bulk caps on PCB)
.if ( 0 )
	VempowerVS	pmicEMpwrNode1	ref_gnd	Vdd		*** can be switched to PMIC model 
	LempowerVS1  pmicEMpwrNode1  pmicEMpwrNode2  	'0.027778n * 0.9091'  
	RempowerVS1  pmicEMpwrNode2  pmic_pwr_raw			50.u 
.endif 

*** resistance of pmic output cap
r_pmic_l_eqv pmic_pwr_raw pmic_pwr induct_eqvlnt_r

*************************************** Socket ********************************
Rskt	bga_pcb		bga_pkg		1.u				*** can add socket model 

*** PCB 
									* Xblk_PCB 
									* + bga_pcb
									* + pmic_pwr
									* + ref_gnd 
									* + acm3_pcb_soc_240419_IdEM

									* Xblk_PCB 
									* + pmic_pwr
									* + bga_pcb
									* + ref_gnd 
									* + ACM3_05162024_SOC_PDN_4x100uF_IdEM
									* * + ACM3_SOC_PDN_240613_BGAx13_100uFx4_22uFx9_1xBGA_IdEM

									* Xblk_PCB 
									* + pmic_pwr
									* + bga_PAR_5_2
									* + bga_PAR_4_2
									* + bga_PAR_3_2
									* + bga_PAR_2_2
									* + bga_PAR_1_2
									* + bga_PAR_0_2
									* + bga_PAR_3_1
									* + bga_PAR_5_0
									* + bga_PAR_4_0
									* + bga_PAR_3_0
									* + bga_PAR_2_0
									* + bga_PAR_1_0
									* + bga_PAR_0_0
									* + ref_gnd 
									* + ACM3_SOC_PDN_240613_BGAx13_100uFx4_22uFx9_IdEM

	Xblk_PCB 
	+ bga_pkg_0_0
	+ bga_pkg_0_0
	+ bga_pkg_0_1
	+ bga_pkg_0_2
	+ bga_pkg_0_2
	+ bga_pkg_0_2 
	+ bga_pkg_1_1
	+ bga_pkg_2_0
	+ bga_pkg_2_0
	+ bga_pkg_2_1
	+ bga_pkg_2_2
	+ bga_pkg_2_2
	+ bga_pkg_2_2
	+ pmic_pwr 
	+ pmic_pwr 
	+ ref_gnd 
	+ ACM3_PT01349994_B0_SOC_251208_s15p		


	Xblk_pkg	*** 241004 130um jgwei extraction based on Andes SIW, jgwei pingrp 
	+ bga_pkg_0_0
	+ bga_pkg_0_1
	+ bga_pkg_0_2
	+ bga_pkg_1_1
	+ bga_pkg_2_0
	+ bga_pkg_2_1
	+ bga_pkg_2_2
	+ bump_PAR_5_2
	+ bump_PAR_4_2
	+ bump_PAR_3_2
	+ bump_PAR_2_2
	+ bump_PAR_1_2
	+ bump_PAR_0_2
	+ bump_PAR_3_1
	+ bump_PAR_5_0
	+ bump_PAR_4_0
	+ bump_PAR_3_0
	+ bump_PAR_2_0
	+ bump_PAR_1_0
	+ bump_PAR_0_0
	+ ref_gnd
	+ Mam_MCM_L12_BH9_Ballv1p00_BPIv0090_20240930_35_senser40_SOC_jgwei_IdEM

									* Xblk_pkg		*** 240823 sign off pkg based on Andes extraction 
									* + pkg_bump
									* + pkg_bump
									* + pkg_bump
									* + pkg_bump
									* + pkg_bump
									* + pkg_bump
									* + pkg_bump
									* + pkg_bump
									* + pkg_bump
									* + pkg_bump
									* + pkg_bump
									* + pkg_bump
									* + pkg_bump
									* + bga_pkg_0
									* + bga_pkg_1
									* + bga_pkg_2
									* + bga_pkg_3
									* + ref_gnd
									* + Mam_MCM_L12_BH9_Ballv0p88i_BPIv00841_20240726_CorePI_SOC_IdEM	


										* Xblk_pkg
										* + bump_PAR_0_0
										* + bump_PAR_1_0
										* + bump_PAR_2_0
										* + bump_PAR_3_0
										* + bump_PAR_4_0
										* + bump_PAR_5_0
										* + bump_PAR_3_1
										* + bump_PAR_0_2
										* + bump_PAR_1_2
										* + bump_PAR_2_2
										* + bump_PAR_3_2
										* + bump_PAR_4_2
										* + bump_PAR_5_2
										* + bga_PAR_0_0
										* + bga_PAR_1_0
										* + bga_PAR_2_0
										* + bga_PAR_3_0
										* + bga_PAR_4_0
										* + bga_PAR_5_0
										* + bga_PAR_3_1
										* + bga_PAR_0_2
										* + bga_PAR_1_2
										* + bga_PAR_2_2
										* + bga_PAR_3_2
										* + bga_PAR_4_2
										* + bga_PAR_5_2
										* + ref_gnd
										* + Mam_MCM_L12_20240528ate_a_capmod20_SOC_ploc_psi_Andes_IdEM

*** Die 
*** approach 1: multi grp modeling or CPM 
* .if (die_model_sig != 1 )
* Xblk_die 
* + pkg_bump
* + ref_gnd
* + adsPowerModel_SOC
* .endif 

*** current profile 
* IcurrSrc_SOC	pkg_bump	ref_gnd	PWL  pwlfile = str(pwl_file_SOC)  R * td= 0.   

* .if (is_MIM == 1)
	* C_SOC_MIM pkg_bump	ref_gnd	 ????n

* .endif 

		Xblk_die
		+ bump_PAR_0_0  ref_gnd
		+ bump_PAR_1_0  ref_gnd
		+ bump_PAR_2_0  ref_gnd
		+ bump_PAR_3_0  ref_gnd
		+ bump_PAR_4_0  ref_gnd
		+ bump_PAR_5_0  ref_gnd
		+ bump_PAR_3_1  ref_gnd
		+ bump_PAR_0_2  ref_gnd
		+ bump_PAR_1_2  ref_gnd
		+ bump_PAR_2_2  ref_gnd
		+ bump_PAR_3_2  ref_gnd
		+ bump_PAR_4_2  ref_gnd
		+ bump_PAR_5_2  ref_gnd	
		+ adsPowerModel_SOC_240612	
		
		*** current src 
		*** section A:
		* IcurrSrc_SOC_PAR_0_0	bump_PAR_0_0	ref_gnd	PWL  pwlfile = str(pwl_file_SOC_PAR_0_0)     R * td= 0.  
		* IcurrSrc_SOC_PAR_1_0    bump_PAR_1_0	ref_gnd	PWL  pwlfile = str(pwl_file_SOC_PAR_1Of11)   R * td= 0.
		* IcurrSrc_SOC_PAR_2_0    bump_PAR_2_0	ref_gnd	PWL  pwlfile = str(pwl_file_SOC_PAR_1Of11)   R * td= 0.
		* IcurrSrc_SOC_PAR_3_0    bump_PAR_3_0	ref_gnd	PWL  pwlfile = str(pwl_file_SOC_PAR_3_0)     R * td= 0.
		* IcurrSrc_SOC_PAR_4_0    bump_PAR_4_0	ref_gnd	PWL  pwlfile = str(pwl_file_SOC_PAR_1Of11)  R * td= 0.
		* IcurrSrc_SOC_PAR_5_0    bump_PAR_5_0	ref_gnd	PWL  pwlfile = str(pwl_file_SOC_PAR_1Of11)  R * td= 0.
		* IcurrSrc_SOC_PAR_3_1    bump_PAR_3_1	ref_gnd	PWL  pwlfile = str(pwl_file_SOC_PAR_1Of11)  R * td= 0.
		* IcurrSrc_SOC_PAR_0_2    bump_PAR_0_2	ref_gnd	PWL  pwlfile = str(pwl_file_SOC_PAR_1Of11)  R * td= 0.
		* IcurrSrc_SOC_PAR_1_2    bump_PAR_1_2	ref_gnd	PWL  pwlfile = str(pwl_file_SOC_PAR_1Of11)  R * td= 0.
		* IcurrSrc_SOC_PAR_2_2    bump_PAR_2_2	ref_gnd	PWL  pwlfile = str(pwl_file_SOC_PAR_1Of11)  R * td= 0.
		* IcurrSrc_SOC_PAR_3_2    bump_PAR_3_2	ref_gnd	PWL  pwlfile = str(pwl_file_SOC_PAR_1Of11)  R * td= 0.
		* IcurrSrc_SOC_PAR_4_2    bump_PAR_4_2	ref_gnd	PWL  pwlfile = str(pwl_file_SOC_PAR_1Of11)  R * td= 0.
		* IcurrSrc_SOC_PAR_5_2    bump_PAR_5_2	ref_gnd	PWL  pwlfile = str(pwl_file_SOC_PAR_1Of11)  R * td= 0.
		*** section A end 
		
		*** section B: short all bumps and enforce 1 current profile 
		r_bump_short_1_0        bump_PAR_1_0	bump_PAR_0_0	1.f
		r_bump_short_2_0        bump_PAR_2_0    bump_PAR_0_0    1.f
		r_bump_short_3_0        bump_PAR_3_0    bump_PAR_0_0    1.f
		r_bump_short_4_0        bump_PAR_4_0    bump_PAR_0_0    1.f
		r_bump_short_5_0        bump_PAR_5_0    bump_PAR_0_0    1.f
		r_bump_short_3_1        bump_PAR_3_1    bump_PAR_0_0    1.f
		r_bump_short_0_2        bump_PAR_0_2    bump_PAR_0_0    1.f
		r_bump_short_1_2        bump_PAR_1_2    bump_PAR_0_0    1.f
		r_bump_short_2_2        bump_PAR_2_2    bump_PAR_0_0    1.f
		r_bump_short_3_2        bump_PAR_3_2    bump_PAR_0_0    1.f
		r_bump_short_4_2        bump_PAR_4_2    bump_PAR_0_0    1.f
		r_bump_short_5_2        bump_PAR_5_2    bump_PAR_0_0    1.f
		
		IcurrSrc_SOC	bump_PAR_0_0	ref_gnd	PWL  pwlfile = str(pwl_file_SOC)  R * td= 0.  		
		*** section B end 
			
		
		
	

				* *** short remaining paritions as one 
				* r_bump_SOC_misc_0		bump_PAR_4_0	bump_SOC_misc	1.n
				* r_bump_SOC_misc_1		bump_PAR_5_0	bump_SOC_misc	1.n
				* r_bump_SOC_misc_2		bump_PAR_3_1	bump_SOC_misc	1.n
				* r_bump_SOC_misc_3		bump_PAR_0_2	bump_SOC_misc	1.n
				* r_bump_SOC_misc_4		bump_PAR_1_2	bump_SOC_misc	1.n
				* r_bump_SOC_misc_5		bump_PAR_2_2	bump_SOC_misc	1.n
				* r_bump_SOC_misc_6		bump_PAR_3_2	bump_SOC_misc	1.n
				* r_bump_SOC_misc_7		bump_PAR_4_2	bump_SOC_misc	1.n
				* r_bump_SOC_misc_8		bump_PAR_5_2	bump_SOC_misc	1.n
				* r_bump_SOC_misc_9		bump_PAR_1_0	bump_SOC_misc	1.n
				* r_bump_SOC_misc_10		bump_PAR_2_0	bump_SOC_misc	1.n

				* *** current src
				* IcurrSrc_SOC_PAR_0_0	bump_PAR_0_0	ref_gnd	PWL  pwlfile = str(pwl_file_SOC_PAR_0_0)  R * td= 0.  
				* IcurrSrc_SOC_PAR_3_0	bump_PAR_3_0	ref_gnd	PWL  pwlfile = str(pwl_file_SOC_PAR_3_0)  R * td= 0.
				* IcurrSrc_SOC_misc	    bump_SOC_misc	ref_gnd	PWL  pwlfile = str(pwl_file_SOC_PAR_miscX11)  R * td= 0.
	
	* .if (is_MIM == 1)
		* C_MIM_SOC_PAR_0_0	 bump_PAR_0_0	ref_gnd	 ??
		* C_MIM_SOC_PAR_1_0    bump_PAR_1_0	ref_gnd
		* C_MIM_SOC_PAR_2_0    bump_PAR_2_0	ref_gnd
		* C_MIM_SOC_PAR_3_0    bump_PAR_3_0	ref_gnd
		* C_MIM_SOC_PAR_4_0    bump_PAR_4_0	ref_gnd
		* C_MIM_SOC_PAR_5_0    bump_PAR_5_0	ref_gnd
		* C_MIM_SOC_PAR_3_1    bump_PAR_3_1	ref_gnd
		* C_MIM_SOC_PAR_0_2    bump_PAR_0_2	ref_gnd
		* C_MIM_SOC_PAR_1_2    bump_PAR_1_2	ref_gnd
		* C_MIM_SOC_PAR_2_2    bump_PAR_2_2	ref_gnd
		* C_MIM_SOC_PAR_3_2    bump_PAR_3_2	ref_gnd
		* C_MIM_SOC_PAR_4_2    bump_PAR_4_2	ref_gnd
		* C_MIM_SOC_PAR_5_2    bump_PAR_5_2	ref_gnd
	* .endif 

* X_probe_filter
* + pkg_bump
* + ref_gnd
* + pkg_bump_hf 
* + pkg_bump_lf
* + meas_filter


*************************************** Analysis I: AC simulation *************
.if ( is_ac_run == 1 )
	.if ( 1 )
		*** NOTE: DO not include port def if tran analysis later
		P1   bump_PAR_5_2	ref_gnd	port=1	z0 = 0.1
		P2   bump_PAR_4_2   ref_gnd	port=2 	z0 = 0.1
		P3   bump_PAR_3_2   ref_gnd	port=3 	z0 = 0.1
		P4   bump_PAR_2_2   ref_gnd	port=4 	z0 = 0.1
		P5   bump_PAR_1_2   ref_gnd	port=5 	z0 = 0.1
		P6   bump_PAR_0_2   ref_gnd	port=6 	z0 = 0.1
		P7   bump_PAR_3_1   ref_gnd	port=7 	z0 = 0.1
		P8   bump_PAR_5_0   ref_gnd	port=8 	z0 = 0.1
		P9   bump_PAR_4_0   ref_gnd	port=9 	z0 = 0.1
		P10  bump_PAR_3_0   ref_gnd	port=10	z0 = 0.1
		P11  bump_PAR_2_0   ref_gnd	port=11	z0 = 0.1
		P12  bump_PAR_1_0   ref_gnd	port=12	z0 = 0.1
		P13  bump_PAR_0_0   ref_gnd	port=13	z0 = 0.1
		
		.lin 	sparcalc=1 	filename=impedance_plot	noisecalc=0 	gdcalc=0	format=touchstone 	dataformat=MA 
		**.probe  ac s11(db) s11(p) s21(db) s21(p) 
		.probe ac zin(1)(m) zin(1)(p) zin(2)(m) zin(2)(p) zin(3)(m) zin(3)(p) zin(4)(m) zin(4)(p) zin(5)(m) zin(5)(p) zin(6)(m) zin(6)(p) zin(7)(m) zin(7)(p) zin(8)(m) zin(8)(p) zin(9)(m) zin(9)(p) zin(10)(m) zin(10)(p) zin(11)(m) zin(11)(p) zin(12)(m) zin(12)(p) zin(13)(m) zin(13)(p) 
		
		.ac 	dec 50 1. 1.G
			
	.endif 

.endif 

*************************************** Analysis II: Transient simulation *****
.if ( is_ac_run != 1 )
	.tran tStep tSTOP 

	.probe tran v(pkg_bump) v(bga_pkg)
	.probe tran v(pkg_bump_hf)  v(pkg_bump_lf)
	.probe tran v(pmic_pwr)
	
	.probe tran v(bump_PAR_0_0)  v(bump_PAR_3_0)  v(bump_PAR_5_0)   v(bump_PAR_0_2)  v(bump_PAR_5_2)
	
	.probe x(Xblk_pkg.a_1) x(Xblk_pkg.a_2)
	.probe x(xblk_PMIC.pin_out)

.endif 
	